US04453004
In an apparatus as in Example 1, 10.0 g (0.054 mol) of syringaldehyde and 5.00 g (0.036 mol) of potassium carbonate were heated to 100° C. and 8 ml (0.094 mol) of dimethyl sulfite was added over a 5 minute period. The pasty mixture was heated to 100° C. for 3 hours then cooled to 25° C. and quenched with 50 ml water. The mixture was extracted with 100 ml of methylene chloride. The extracts were washed with water and concentrated in vacuo to get 4.2 g (54% based on recovered syringaldehyde) of 3,4,5-trimethoxybenzaldehyde.

reactant | syringaldehyde | 0.054 mol, 10.0 g | C(C1=CC(OC)=C(O)C(OC)=C1)=O | C9H10O4
reactant | potassium carbonate | 0.036 mol, 5.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfite | 0.094 mol, 8 ml | S(=O)(OC)OC | C2H6O3S
product | 3,4,5-trimethoxybenzaldehyde | 4.2 g, 54% | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
